.SUBCKT mbrd660ct 1 3 4
x1 1 4 Dmbrd660ct
x2 3 4 Dmbrd660ct
.ENDS mbrd660ct
*
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Mar  7, 03
* MODEL FORMAT: PSpice
.MODEL Dmbrd660ct d
+IS=9.27042e-06 RS=0.060746 N=1.32524 EG=0.580523
+XTI=5 BV=60 IBV=0.00025 CJO=4.73006e-10
+VJ=1.04012 M=0.545891 FC=0.5 TT=2.79601e-09
+KF=0 AF=1


