*********
*SRC=MC33501;MC33501;Sub Assembly;User Function Block;ON Semi MC33501 Opamp
*SYM=OSOPAMP
* |=======================================================
* |                     MC33501        REV B 8/17/01
* |                ON SEMICONDUCTOR
* |               OP-AMP MACRO-MODEL
* |                with NMOS INPUT 
* |
* | This model was developed by
* | AEI (Analytic Engineering)
* | 182 Morris Avenue
* | Holtsville, NY 11742
* |
* | Copyright 2001 AEI
* | All Rights Reserved
* |
* | The content of this model is subject to change
* | without notice and may not be modified or altered
* | without permission from ON Semiconductor. This model
* | has been carefully checked and is believed to be
* | accurate, however neither AEI nor ON Semiconductor
* | assume liability for the use of this model or the
* | results obtained from using it.
* |
* | For more information regarding modeling services,
* | model libraries or simulation productors, please
* | call AEI at (631) 654-0253 ext 116 or 106.
* | email: Sales@aeng.com.
* |=======================================================
*by Paul Sabatino
*
* Connections:  Inverting input
*               | Non-inverting input
*               | | Output
*               | | |  Positive power supply
*               | | |  |  Negative power supply
*               | | |  |  |
*               | | |  |  |
.SUBCKT MC33501 1 2 18 50 99
*
* CAUTION:  SET .OPTIONS GMIN=1E-16 TO CORRECTLY MODEL INPUT BIAS CURRENT AND CMR
*
* NOTE: - Noise is not modeled.
*       - Temperature is not modeled.
*       - PSR is not modeled.
*
*FAMILY = ANALOG
*FAMILY = ANALOG
*FAMILY = ANALOG
*FAMILY = ANALOG
*FAMILY = ANALOG
I1 4 99 DC=50U
R3 5 50 1K
R15 22 40 .0001
R4 6 50 1K
I2 50 99 DC=.81M
G0 98 9 6 5 2E-2
R0 98 9 1K
C1 29 98 12.186P
D3 1 50 DINB 
.MODEL DINB D IS=9.6e-13
D1 2 50 DINA 
.MODEL DINA D IS=1.04e-12
D2 99 2 DINC 
.MODEL DINC D IS=1e-12
R11 124 0 10MEG
C4 5 6 6.094P
D4 99 1 DINC 
C6 98 22 3.897U
G8 98 14 0 124 1E-6
G3 98 29 9 98 1E-3
R12 98 29 1K
R8 50 49 3.333K
R9 49 99 3.333K
EN 98 99 49 96 1
GN3 98 14 40 98 1U
RN1 98 14 1MEG
L2 0 37 3.183
ENP 97 0 50 0 1
ENN 0 96 0 99 1
G6 98 40 98 29 11.72
R16 98 40 1K
V4 19 40 DC=.77
D5 19 97 DDEF 
.MODEL DDEF D
V5 40 31 DC=.77
D6 96 31 DDEF 
R13 37 124 1K
M2 6 7 4 99 MOSFET 
.MODEL MOSFET NMOS KP=3.684E-3
M1 5 1 4 99 MOSFET 
VOS 7 2 DC=0.5M
G7 0 124 4 99 10E-9
Q2 48 11 50 QPNPOUT 
.MODEL QPNPOUT PNP NE=1.5 NF=.67
F1 99 11 V25 .01
R32 48 52 31.7
Q1 53 54 99 QNPNOUT 
.MODEL QNPNOUT NPN NF=.597
F2 54 50 V24 .01
R33 52 53 16.7
D19 56 59 DDEF 
D20 58 56 DDEF 
R34 57 58 100
V24 0 60 DC=.63
V25 57 0 DC=.63
R1 59 60 100
F3 56 0 V6 1
V6 52 18 DC=0
R7 14 52 10K
.ENDS 
*********
*SRC=MC33502;MC33502;Sub Assembly;User Function Block;ON Semi MC33502 Opamp
*SYM=OSOPAMP
* |=======================================================
* |                     MC33502        REV - 8/17/01
* |                ON SEMICONDUCTOR
* |               OP-AMP MACRO-MODEL
* |                with NMOS INPUT 
* |
* | This model was developed by
* | AEI (Analytic Engineering)
* | 182 Morris Avenue
* | Holtsville, NY 11742
* |
* | Copyright 2001 AEI
* | All Rights Reserved
* |
* | The content of this model is subject to change
* | without notice and may not be modified or altered
* | without permission from ON Semiconductor. This model
* | has been carefully checked and is believed to be
* | accurate, however neither AEI nor ON Semiconductor
* | assume liability for the use of this model or the
* | results obtained from using it.
* |
* | For more information regarding modeling services,
* | model libraries or simulation productors, please
* | call AEI at (631) 654-0253 ext 116 or 106.
* | email: Sales@aeng.com.
* |=======================================================
*by Paul Sabatino
*
* Connections:  Inverting input
*               | Non-inverting input
*               | | Output
*               | | |  Positive power supply
*               | | |  |  Negative power supply
*               | | |  |  |
*               | | |  |  |
.SUBCKT MC33502 1 2 18 50 99
*
* CAUTION:  SET .OPTIONS GMIN=1E-16 TO CORRECTLY MODEL INPUT BIAS CURRENT AND CMR
*
* NOTE: - Noise is not modeled.
*       - Temperature is not modeled.
*       - PSR is not modeled.
*       - Model is for single device only.  Simulated supply current is 1/2 of
*         total package current.
*
*FAMILY = ANALOG
*FAMILY = ANALOG
*FAMILY = ANALOG
*FAMILY = ANALOG
*FAMILY = ANALOG
I1 4 99 DC=50U
R3 5 50 1K
R15 22 40 .0001
R4 6 50 1K
I2 50 99 DC=.81M
G0 98 9 6 5 2E-2
R0 98 9 1K
C1 29 98 12.186P
D3 1 50 DINB 
.MODEL DINB D IS=9.6e-13
D1 2 50 DINA 
.MODEL DINA D IS=1.04e-12
D2 99 2 DINC 
.MODEL DINC D IS=1e-12
R11 124 0 10MEG
C4 5 6 6.094P
D4 99 1 DINC 
C6 98 22 3.897U
G8 98 14 0 124 1E-6
G3 98 29 9 98 1E-3
R12 98 29 1K
R8 50 49 3.333K
R9 49 99 3.333K
EN 98 99 49 96 1
GN3 98 14 40 98 1U
RN1 98 14 1MEG
L2 0 37 3.183
ENP 97 0 50 0 1
ENN 0 96 0 99 1
G6 98 40 98 29 11.72
R16 98 40 1K
V4 19 40 DC=.77
D5 19 97 DDEF 
.MODEL DDEF D
V5 40 31 DC=.77
D6 96 31 DDEF 
R13 37 124 1K
M2 6 7 4 99 MOSFET 
.MODEL MOSFET NMOS KP=3.684E-3
M1 5 1 4 99 MOSFET 
VOS 7 2 DC=0.5M
G7 0 124 4 99 10E-9
Q2 48 11 50 QPNPOUT 
.MODEL QPNPOUT PNP NE=1.5 NF=.67
F1 99 11 V25 .01
R32 48 52 31.7
Q1 53 54 99 QNPNOUT 
.MODEL QNPNOUT NPN NF=.597
F2 54 50 V24 .01
R33 52 53 16.7
D19 56 59 DDEF 
D20 58 56 DDEF 
R34 57 58 100
V24 0 60 DC=.63
V25 57 0 DC=.63
R1 59 60 100
F3 56 0 V6 1
V6 52 18 DC=0
R7 14 52 10K
.ENDS 
*********
*SRC=MC33503;MC33503;Sub Assembly;User Function Block;ON Semi MC33503 Opamp
*SYM=OSOPAMP
* |=======================================================
* |                     MC33503        REV - 8/17/01
* |                ON SEMICONDUCTOR
* |               OP-AMP MACRO-MODEL
* |                with NMOS INPUT 
* |
* | This model was developed by
* | AEI (Analytic Engineering)
* | 182 Morris Avenue
* | Holtsville, NY 11742
* |
* | Copyright 2001 AEI
* | All Rights Reserved
* |
* | The content of this model is subject to change
* | without notice and may not be modified or altered
* | without permission from ON Semiconductor. This model
* | has been carefully checked and is believed to be
* | accurate, however neither AEI nor ON Semiconductor
* | assume liability for the use of this model or the
* | results obtained from using it.
* |
* | For more information regarding modeling services,
* | model libraries or simulation productors, please
* | call AEI at (631) 654-0253 ext 116 or 106.
* | email: Sales@aeng.com.
* |=======================================================
*by Paul Sabatino
*
* Connections:  Inverting input
*               | Non-inverting input
*               | | Output
*               | | |  Positive power supply
*               | | |  |  Negative power supply
*               | | |  |  |
*               | | |  |  |
.SUBCKT MC33503 1 2 18 50 99
*
* CAUTION:  SET .OPTIONS GMIN=1E-16 TO CORRECTLY MODEL INPUT BIAS CURRENT AND CMR
*
* NOTE: - Noise is not modeled.
*       - Temperature is not modeled.
*       - PSR is not modeled.
*
*FAMILY = ANALOG
*FAMILY = ANALOG
*FAMILY = ANALOG
*FAMILY = ANALOG
*FAMILY = ANALOG
I1 4 99 DC=50U
R3 5 50 1K
R15 22 40 .0001
R4 6 50 1K
I2 50 99 DC=.81M
G0 98 9 6 5 2E-2
R0 98 9 1K
C1 29 98 12.186P
D3 1 50 DINB 
.MODEL DINB D IS=9.6e-13
D1 2 50 DINA 
.MODEL DINA D IS=1.04e-12
D2 99 2 DINC 
.MODEL DINC D IS=1e-12
R11 124 0 10MEG
C4 5 6 6.094P
D4 99 1 DINC 
C6 98 22 3.897U
G8 98 14 0 124 1E-6
G3 98 29 9 98 1E-3
R12 98 29 1K
R8 50 49 3.333K
R9 49 99 3.333K
EN 98 99 49 96 1
GN3 98 14 40 98 1U
RN1 98 14 1MEG
L2 0 37 3.183
ENP 97 0 50 0 1
ENN 0 96 0 99 1
G6 98 40 98 29 11.72
R16 98 40 1K
V4 19 40 DC=.77
D5 19 97 DDEF 
.MODEL DDEF D
V5 40 31 DC=.77
D6 96 31 DDEF 
R13 37 124 1K
M2 6 7 4 99 MOSFET 
.MODEL MOSFET NMOS KP=3.684E-3
M1 5 1 4 99 MOSFET 
VOS 7 2 DC=0.5M
G7 0 124 4 99 10E-9
Q2 48 11 50 QPNPOUT 
.MODEL QPNPOUT PNP NE=1.5 NF=.67
F1 99 11 V25 .01
R32 48 52 31.7
Q1 53 54 99 QNPNOUT 
.MODEL QNPNOUT NPN NF=.597
F2 54 50 V24 .01
R33 52 53 16.7
D19 56 59 DDEF 
D20 58 56 DDEF 
R34 57 58 100
V24 0 60 DC=.63
V25 57 0 DC=.63
R1 59 60 100
F3 56 0 V6 1
V6 52 18 DC=0
R7 14 52 10K
.ENDS 
*********
