************************************** 
*      Model Generated by MODPEX     * 
*Copyright(c) Symmetry Design Systems* 
*         All Rights Reserved        * 
*    UNPUBLISHED LICENSED SOFTWARE   * 
*   Contains Proprietary Information * 
*      Which is The Property of      * 
*     SYMMETRY OR ITS LICENSORS      * 
*Commercial Use or Resale Restricted * 
*   by Symmetry License Agreement    * 
************************************** 
* Model generated on Feb 12, 97 
* MODEL FORMAT: SPICE3 
**********
.SUBCKT MC33341 1 2 3 4 5 6 7 8
DCLP1 4 8 DSTD
DCLP2 6 7 DSTD
DCLP3 4 5 DSTD
DCLP4 4 1 DSTD
DCLP5 2 7 DSTD
DCLP6 3 7 DSTD
**** INTERNAL REFERENCES ****
BREF1 10 4 V=V(7)>200M ? 200M : V(7)
BREF2 11 4  V=V(7)>1.2 ? 1.2 : V(7)
**** DISABLE LOGIC FUNCTION ****
XCMP1 11 1 14 COMP2
XCMP2 6 1 15 COMP2
BNOR 16 4 V=V(14)>800M | V(15)>800M ? 0 : 5
RDEL 16 17 100
CDEL 17 4 10P
**** INVERTING AMP/ DIFF. AMP ****
R1 6 20 10K
R2 20 21 10K
R3 1 22 10K
R4 22 4 10K
XAMP1 22 20 21 4 ERRSIMP
R5 1 23 10K
R6 23 24 10K
XAMP2 4 23 25 4 ERRSIMP
D1 25 24 DSTD
**** CURRENT SENSE SELECTION ****
BISENS 52 4 V=V(17)>3 ? V(21,4) : V(24,4)
**** LIMITED TRANSCONDUCTANCE CONVERSION ****
XCON 11 10 6 5 2 52 4 3 7 8 OTA
**** INTERNAL MODELS ****
.MODEL DSTD D(RS=.8 CJO=4PF IS=7E-09 N=2 VJ=.6V    
+ TT=6E-09 M=.45 BV=100V)
.ENDS
*INCLUDE MC33341.LIB
********************
.SUBCKT COMP2 1 2 3
*             + - S
B1 4 0 V=V(1) > V(2) ? 5V : 0
RD 4 3 100
CD 3 0 10P
.ENDS COMP2
**** SIMPLIFIED ERROR AMP. ****
.SUBCKT ERRSIMP 20 8 23  21
*   	        +  - OUT GND
RIN 20 8 8MEG
E1 22 21 5 21 1
RO 22 23 100
VOFF 5 11 0
D15 21 11 DCLAMP
G1 21 11 20 8 100U
RP1 11 21 130MEG
CP1 11 21 10P
.MODEL DCLAMP D (RS=10 BV=5 IBV=0.01)
.ENDS ERRSIMP
**** TRANSCONDUCTANCE AMPLIFIER ****
.SUBCKT OTA VREF IREF PIN6 PIN5 PIN2 ISENSE GND COMP VCC OUT
*
R5 Vcc 13 43
I4 4 gnd DC=20uA
Q1 Comp 12 33 QN3904
Q2 gnd Comp 7 QN3906 
Q3 Comp 14 5 QN3906 
Q4 Comp 7 Out QN3906 
Q5 5 5 26 QN3906 
Q6 14 5 24 QN3906 
Q7 14 4 29 QN3904
Q9 12 22 20 QN3906 
Q12 gnd pin2 27 QN3906
R11 24 Vcc 10k
R12 26 Vcc 10k
Q10 12 12 34 QN3904 
Q11 4 4 28 QN3904
Q16 12 Vref 20 QN3906 
Q19 4 pin5 20 QN3906 
Q20 gnd Iref 27 QN3906 
Q21 12 27 21 QN3906 
R13 28 gnd 10k
R14 29 gnd 10k
Q8 Out 7 13 QN3906 
I3 Vcc 21 DC=20uA
I8 Vcc 23 DC=2uA
I5 Vcc 27 DC=2uA
R15 33 gnd 10k
R16 34 gnd 10k
Q22 4 23 21 QN3906 
Q23 gnd Isense 23 QN3906 
I6 Vcc 20 DC=20uA
R4 22 pin6 6.25k
.MODEL QN3904 NPN AF=1.0 BF=300 BR=7.5 CJC=3.5PF CJE=4.5PF
+ IKF=.025 IS=1.4E-14 ISE=3E-13 KF=9E-16 NE=1.5 RC=2.4
+ TF=4E-10 TR=21E-9 VAF=100 XTB=1.5
.MODEL QN3906 PNP AF=1.0 BF=400 BR=7.5 CJC=5.8PF CJE=6.3PF
+ IKF=.02 IS=4E-14 ISE=7E-15 KF=6E-16 NE=1.16 RC=2.4 TF=5E-10
+ TR=23E-9 VAF=50 XTB=1.5
.ENDS OTA
****
